US06160128
N-Iodoacetoxysuccinimide
N-Hydroxysuccinimide (1 g, 8.7 mmole), iodoacetic acid (8.7 mmole, 1.6 g), and DCC (8.7 mmole, 1.7 g) were added to 250 mL of EtOAc and the mixture was stirred at room temperature for 5 hours. The mixture was filtered and the filtrate concentrated to dryness in vacuo. The residue was crystallized from ethanol to yield 1.74 g (71%) of white crystals, mp 148-150° C.

reactant | N-Hydroxysuccinimide | 8.7 mmole, 1 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | iodoacetic acid | 8.7 mmole, 1.6 g | ICC(=O)O | C2H3IO2
reactant | DCC | 8.7 mmole, 1.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | N-Iodoacetoxysuccinimide | 1.74 g, 71% | ICC(=O)ON1C(CCC1=O)=O | C6H6INO4
